US04459150
A solution of 5-amino-4-cyano-1-(2,3,4,6-tetrafluorophenyl)pyrazole (2.6 g; described in British Published Patent Specification No. 2,070,604A.) in dry tetrahydrofuran (10 ml) was added dropwise to a stirred suspension of powdered sodium hydride (0.53 g) in dry tetrahydrofuran, under nitrogen, at a temperature not exceeding 30° C. maintained by external cooling (ice). When the evolution of hydrogen had ceased a solution of acetyl chloride (1.5 ml) in tetrahydrofuran (15 ml) was added at a temperature not exceeding 30° C. After stirring at laboratory temperature for 48 hours the reaction mixture was washed with saturated aqueous ammonium chloride and the organic layer separated and dried over anhydrous magnesium sulphate and evaporated to dryness. The residue was chromatographed on a silica column (Merck 230-400 mesh; 10 lb in-2) using dichloromethane as eluent. Evaporation of the eluate containing the major component gave a solid which was crystallised from a mixture of toluene and hexane to give 4-cyano-5-diacetylamino-1-(2,3,4,6-tetrafluorophenyl)-pyrazole (1.5 g), m.p. 132°-134° C., in the form of colourless crystals.

reactant | 5-amino-4-cyano-1-(2,3,4,6-tetrafluorophenyl)pyrazole | NC1=C(C=NN1C1=C(C(=C(C=C1F)F)F)F)C#N | C10H4F4N4
reactant | sodium hydride | 0.53 g | [H-].[Na+]
reactant | hydrogen | [H][H] | H2
reactant | acetyl chloride | 1.5 ml | C(C)(=O)Cl | C2H3ClO
reactant | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
reactant | tetrahydrofuran | 15 ml | O1CCCC1 | C4H8O
product | 4-cyano-5-diacetylamino-1-(2,3,4,6-tetrafluorophenyl)-pyrazole | 1.5 g | C(#N)C=1C=NN(C1N(C(C)=O)C(C)=O)C1=C(C(=C(C=C1F)F)F)F | C14H8F4N4O2
